US09061030B2
To 1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazole-3-carbonitrile (Intermediate-5, 0.74 mmol) was added sodium methoxide/MeOH (0.5M, 4 equiv, 5.9 mL). After stirring at ambient temperature for 3 h, additional portion of sodium methoxide/MeOH (1 equiv) was added. After 2 h, ammonium chloride (10 equiv) was added and the resultant mixture was stirred at ambient for 17 h. The reaction mixture was conc. Half-saturated NaHCO3/1N NaOH solution (10:1) was added and the aqueous mixture was extracted with EtOAc. The organic phases were dried over Na2SO4, filtered and conc. to afford 1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazole-3-carboximidamide as a white solid (>99% yield).

reactant | 1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazole-3-carbonitrile | 0.74 mmol | FC1=C(CN2N=C(N=C2C=2SC=CN2)C#N)C=CC=C1 | C13H8FN5S
reactant | sodium methoxide MeOH | 0.5M, 5.9 mL, 4 equiv | C[O-].[Na+].CO
reactant | sodium methoxide MeOH | 1 equiv | C[O-].[Na+].CO
reactant | ammonium chloride | 10 equiv | [Cl-].[NH4+]
reactant | NaHCO3 | 1N | C(=O)(O)[O-].[Na+]
product | 1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazole-3-carboximidamide | >99% yield | FC1=C(CN2N=C(N=C2C=2SC=CN2)C(N)=N)C=CC=C1 | C13H11FN6S
